*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 09:45:48 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "DLY1X4"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  DLY1X4 A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 6.61656e-16
*|P (A X 0 0.9320 1.4240)
*|I (MX33/M0#g MX33/M0 g X 0 0.4750 0.8025)
*|I (MX31/M0#g MX31/M0 g X 0 0.4750 3.2375)
*|S (A#7 0.4150 1.2900)
*|S (A#8 0.9200 1.2900)
C1 MX31/M0#g VSS 5.49729e-17
C2 MX33/M0#g VSS 4.43584e-17
C3 A#8 VSS 9.38434e-17
C4 A#7 VSS 1.04982e-16
C5 A VSS 3.635e-16
Rg1 MX31/M0#g A#7 611.679260 $W=0.15
Rg2 A#7 MX33/M0#g 142.532608 $W=0.15
Rf3 A#8 A#7 53.023529 $W=0.17
Re4 A A#8 152.064423 $W=0.26
*
*|NET Y 1.25461e-15
*|P (Y X 0 3.6920 2.0890)
*|I (MX26/M0#d MX26/M0 d X 0 2.7905 0.9700)
*|I (MX26/M1#s MX26/M1 s X 0 3.0695 0.9700)
*|I (MX26/M2#d MX26/M2 d X 0 3.6505 0.9700)
*|I (MX26/M3#s MX26/M3 s X 0 3.9295 0.9700)
*|I (MX30/M0#d MX30/M0 d X 0 2.7905 2.9850)
*|I (MX30/M1#s MX30/M1 s X 0 3.0695 2.9850)
*|I (MX30/M2#d MX30/M2 d X 0 3.6505 2.9850)
*|I (MX30/M3#s MX30/M3 s X 0 3.9295 2.9850)
*|S (Y#1 2.9300 3.0250)
*|S (Y#4 2.9300 0.9350)
*|S (Y#5 3.7900 3.0250)
*|S (Y#8 3.7900 0.9350)
*|S (Y#13 3.7325 3.2550)
C6 MX30/M2#d VSS 1.61703e-16
C7 MX30/M0#d VSS 1.6894e-16
C8 Y#4 VSS 2.70373e-16
C9 Y#1 VSS 1.84843e-16
C10 Y#8 VSS 2.29184e-16
C11 Y#5 VSS 1.41412e-16
C12 Y VSS 9.81485e-17
Rf5 Y#1 MX30/M0#d 56.283535 $W=0.83
Rf6 MX26/M0#d Y#4 84.423714 $W=0.485
Rf7 Y#5 MX30/M2#d 56.283535 $W=0.83
Rf8 MX26/M2#d Y#8 84.423714 $W=0.485
Re9 Y#5 Y 0.329577 $W=0.355
Re10 Y Y#8 0.406338 $W=0.355
Re11 Y#8 Y#4 0.503449 $W=0.23
Re12 Y#4 Y#1 1.135870 $W=0.23
Re13 Y#1 Y#13 0.745787 $W=0.17
Re14 Y#13 Y#5 0.079225 $W=0.355
Rmw15 MX26/M1#s MX26/M0#d 0.001000 $W=1000000
Rmw16 MX26/M3#s MX26/M2#d 0.001000 $W=1000000
Rmw17 MX30/M1#s MX30/M0#d 0.001000 $W=1000000
Rmw18 MX30/M3#s MX30/M2#d 0.001000 $W=1000000
*
*|NET 1 8.0243e-16
*|I (MX33/M0#d MX33/M0 d X 0 0.3995 0.8025)
*|I (MX28/M0#g MX28/M0 g X 0 0.9050 0.8025)
*|I (MX31/M0#d MX31/M0 d X 0 0.3995 3.2375)
*|I (MM0#g MM0 g X 0 0.9050 3.2375)
*|S (1 0.9050 3.2375)
*|S (1#7 0.9050 1.6300)
*|S (1#8 0.2600 3.3850)
*|S (1#11 0.2600 0.7550)
*|S (1#13 0.2550 1.6300)
C13 MX31/M0#d VSS 5.9994e-17
C14 MX28/M0#g VSS 3.95895e-17
C15 1#13 VSS 2.39857e-16
C16 1#11 VSS 1.65293e-16
C17 1#8 VSS 1.49069e-16
C18 1#7 VSS 1.12074e-16
C19 1 VSS 3.65524e-17
Rg19 1 1#7 497.702423 $W=0.15
Rg20 1#7 MX28/M0#g 247.062408 $W=0.15
Rf21 1#8 MX31/M0#d 26.294117 $W=0.17
Rf22 MX33/M0#d 1#11 18.388235 $W=0.17
Rf23 1#7 1#13 215.941177 $W=0.17
Re24 1#13 1#11 152.596512 $W=0.17
Re25 1#13 1#8 153.243576 $W=0.17
Rmw26 MM0#g 1 0.001000 $W=1000000
*
*|NET 2 1.14173e-15
*|I (MX34/M0#d MX34/M0 d X 0 1.4105 0.8025)
*|I (MX29/M0#g MX29/M0 g X 0 2.2850 0.9700)
*|I (MX32/M0#d MX32/M0 d X 0 1.4105 3.2375)
*|I (MX27/M0#g MX27/M0 g X 0 2.2850 2.9850)
*|S (2 2.2850 2.9850)
*|S (2#7 2.2250 1.6275)
*|S (2#8 1.5500 3.3850)
*|S (2#10 1.5500 0.7775)
*|S (2#12 1.5500 0.8000)
*|S (2#13 1.6150 0.7550)
*|S (2#14 1.6150 0.7775)
*|S (2#16 1.6150 1.6300)
C20 MX32/M0#d VSS 9.37831e-17
C21 MX29/M0#g VSS 5.75969e-17
C22 2#14 VSS 3.25175e-17
C23 2#10 VSS 4.23838e-17
C24 2#8 VSS 2.22473e-16
C25 2#13 VSS 1.56043e-16
C26 2#16 VSS 3.62859e-16
C27 2#7 VSS 1.00754e-16
C28 2 VSS 7.33204e-17
Rg27 2 2#7 422.449615 $W=0.15
Rg28 2#7 MX29/M0#g 196.802231 $W=0.15
Rf29 2#8 MX32/M0#d 26.294117 $W=0.17
Rf30 2#10 2#12 1.225532 $W=0.235
Rf31 2#13 2#14 1.225532 $W=0.235
Rf32 2#10 2#14 1.957647 $W=0.425
Rf33 MX34/M0#d 2#12 15.000000 $W=0.235
Rf34 2#7 2#16 212.929413 $W=0.17
Re35 2#16 2#8 153.242065 $W=0.17
Re36 2#16 2#13 152.605270 $W=0.17
Rmw37 MX27/M0#g 2 0.001000 $W=1000000
*
*|NET 3 1.49541e-15
*|I (MX29/M0#d MX29/M0 d X 0 2.2095 0.9700)
*|I (MX26/M0#g MX26/M0 g X 0 2.7150 0.9700)
*|I (MX26/M1#g MX26/M1 g X 0 3.1450 0.9700)
*|I (MX26/M2#g MX26/M2 g X 0 3.5750 0.9700)
*|I (MX26/M3#g MX26/M3 g X 0 4.0050 0.9700)
*|I (MX30/M0#g MX30/M0 g X 0 2.7150 2.9850)
*|I (MX30/M1#g MX30/M1 g X 0 3.1450 2.9850)
*|I (MX30/M2#g MX30/M2 g X 0 3.5750 2.9850)
*|I (MX30/M3#g MX30/M3 g X 0 4.0050 2.9850)
*|I (MX27/M0#d MX27/M0 d X 0 2.2095 2.9850)
*|S (3#25 4.0050 2.1450)
*|S (3#26 3.5750 2.1450)
*|S (3 3.3600 2.1450)
*|S (3#28 3.1450 2.1450)
*|S (3#29 2.7150 2.1450)
*|S (3#30 2.0700 3.3850)
*|S (3#33 2.0700 0.7550)
*|S (3#35 2.0700 2.1450)
C29 MX27/M0#d VSS 1.31534e-16
C30 MX30/M3#g VSS 6.90908e-17
C31 MX30/M2#g VSS 5.67036e-17
C32 MX30/M1#g VSS 5.69823e-17
C33 MX30/M0#g VSS 5.85961e-17
C34 MX26/M3#g VSS 5.4299e-17
C35 MX26/M2#g VSS 4.8343e-17
C36 MX26/M1#g VSS 4.74722e-17
C37 MX26/M0#g VSS 4.78799e-17
C38 3#33 VSS 2.63595e-16
C39 3#35 VSS 2.73988e-16
C40 3#30 VSS 1.32791e-16
C41 3 VSS 2.5414e-16
Rg38 MX30/M3#g 3#25 265.943329 $W=0.15
Rg39 3#25 3#26 62.011234 $W=0.27
Rg40 3#26 3 36.929379 $W=0.27
Rg41 3 3#28 36.929379 $W=0.27
Rg42 3#28 3#29 62.011227 $W=0.27
Rg43 3#29 MX26/M0#g 373.589996 $W=0.15
Rg44 3#25 MX26/M3#g 373.589996 $W=0.15
Rg45 3#26 MX26/M2#g 371.033081 $W=0.15
Rg46 3#26 MX30/M2#g 263.386414 $W=0.15
Rg47 3#28 MX26/M1#g 371.033081 $W=0.15
Rg48 3#28 MX30/M1#g 263.386414 $W=0.15
Rg49 3#29 MX30/M0#g 265.943329 $W=0.15
Rf50 3#30 MX27/M0#d 35.117649 $W=0.17
Rf51 MX29/M0#d 3#33 23.688236 $W=0.17
Rf52 3 3#35 254.129410 $W=0.17
Re53 3#30 3#35 152.864899 $W=0.17
Re54 3#35 3#33 152.975189 $W=0.17
*
*|NET 16 1.10711e-16
*|I (MX34/M0#s MX34/M0 s X 0 1.2595 0.8025)
*|I (MX28/M0#d MX28/M0 d X 0 0.9805 0.8025)
*|S (16 1.1200 0.8000)
C42 16 VSS 1.10711e-16
Rmw55 MX34/M0#s 16 0.001000 $W=1000000
Rmw56 MX28/M0#d 16 0.001000 $W=1000000
*
*|NET 18 1.38119e-16
*|I (MX32/M0#s MX32/M0 s X 0 1.2595 3.2375)
*|I (MM0#d MM0 d X 0 0.9805 3.2375)
*|S (18 1.1200 3.2350)
C43 18 VSS 1.38119e-16
Rmw57 MX32/M0#s 18 0.001000 $W=1000000
Rmw58 MM0#d 18 0.001000 $W=1000000
*
*Instance Section
*
MX34/M0	MX34/M0#d	VDD	MX34/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX33/M0	MX33/M0#d	MX33/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX29/M0	MX29/M0#d	MX29/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX28/M0	MX28/M0#d	MX28/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX26/M0	MX26/M0#d	MX26/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX26/M1	VSS	MX26/M1#g	MX26/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX26/M2	MX26/M2#d	MX26/M2#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX26/M3	VSS	MX26/M3#g	MX26/M3#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX32/M0	MX32/M0#d	VSS	MX32/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX31/M0	MX31/M0#d	MX31/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX30/M0	MX30/M0#d	MX30/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX30/M1	VDD	MX30/M1#g	MX30/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX30/M2	MX30/M2#d	MX30/M2#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX30/M3	VDD	MX30/M3#g	MX30/M3#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX27/M0	MX27/M0#d	MX27/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MM0	MM0#d	MM0#g	VDD	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
