*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 09:46:59 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "DLY2X4"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  DLY2X4 A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 5.3223e-16
*|P (A X 0 0.9320 2.7840)
*|I (MX45/M0#g MX45/M0 g X 0 0.4750 0.8025)
*|I (MX49/M0#g MX49/M0 g X 0 0.4750 3.2375)
*|S (A#7 0.4750 2.6500)
*|S (A#8 0.9050 2.6500)
*|S (A#11 0.9185 2.6500)
*|S (A#12 0.9185 2.7840)
C1 MX49/M0#g VSS 5.23736e-17
C2 MX45/M0#g VSS 4.86102e-17
C3 A#12 VSS 1.62213e-16
C4 A#11 VSS 1.11714e-16
C5 A#8 VSS 7.46293e-17
C6 A#7 VSS 8.26899e-17
Rg1 MX49/M0#g A#7 169.942413 $W=0.15
Rg2 A#7 MX45/M0#g 574.822449 $W=0.15
Rf3 A#8 A#7 47.376472 $W=0.17
Re4 A#8 A#11 152.001358 $W=1.24
Re5 A#12 A 0.001361 $W=1.24
Re6 A#11 A#12 0.064423 $W=0.26
*
*|NET Y 1.15526e-15
*|P (Y X 0 5.9920 2.3940)
*|I (MX51/M0#d MX51/M0 d X 0 6.1695 0.9700)
*|I (MX51/M1#s MX51/M1 s X 0 5.8905 0.9700)
*|I (MX51/M2#d MX51/M2 d X 0 5.3095 0.9700)
*|I (MX51/M3#s MX51/M3 s X 0 5.0305 0.9700)
*|I (MX43/M0#d MX43/M0 d X 0 6.1695 2.9850)
*|I (MX43/M1#s MX43/M1 s X 0 5.8905 2.9850)
*|I (MX43/M2#d MX43/M2 d X 0 5.3095 2.9850)
*|I (MX43/M3#s MX43/M3 s X 0 5.0305 2.9850)
*|S (Y#2 5.1700 2.9450)
*|S (Y#3 5.1700 1.0050)
*|S (Y#6 6.0300 2.9450)
*|S (Y#7 6.0300 1.0050)
*|S (Y#9 5.9975 1.8850)
*|S (Y#10 5.1700 1.8850)
C7 MX51/M2#d VSS 1.23266e-16
C8 MX51/M0#d VSS 1.19534e-16
C9 Y#10 VSS 1.11995e-16
C10 Y#9 VSS 9.62752e-17
C11 Y#3 VSS 9.71459e-17
C12 Y#2 VSS 2.77482e-16
C13 Y#7 VSS 8.10269e-17
C14 Y#6 VSS 2.31346e-16
C15 Y VSS 1.71922e-17
Rf7 MX43/M2#d Y#2 5.616868 $W=0.83
Rf8 Y#3 MX51/M2#d 8.423712 $W=0.485
Rf9 MX43/M0#d Y#6 5.616868 $W=0.83
Rf10 Y#7 MX51/M0#d 8.423712 $W=0.485
Re11 Y Y#9 0.212362 $W=0.295
Re12 Y#9 Y#10 0.340213 $W=0.23
Re13 Y#10 Y#3 76.473473 $W=0.23
Re14 Y Y#6 50.900143 $W=0.295
Re15 Y#9 Y#7 76.369568 $W=0.295
Re16 Y#10 Y#2 51.237968 $W=0.23
Rmw17 MX51/M1#s MX51/M0#d 0.001000 $W=1000000
Rmw18 MX51/M3#s MX51/M2#d 0.001000 $W=1000000
Rmw19 MX43/M1#s MX43/M0#d 0.001000 $W=1000000
Rmw20 MX43/M3#s MX43/M2#d 0.001000 $W=1000000
*
*|NET 1 6.50006e-16
*|I (MX46/M0#g MX46/M0 g X 0 0.9050 0.8025)
*|I (MX45/M0#d MX45/M0 d X 0 0.3995 0.8025)
*|I (MX52/M0#g MX52/M0 g X 0 0.9050 3.2375)
*|I (MX49/M0#d MX49/M0 d X 0 0.3995 3.2375)
*|S (1 0.9050 1.9700)
*|S (1#9 0.2600 3.0900)
*|S (1#10 0.2600 0.8500)
*|S (1#13 0.2600 1.9700)
C16 MX52/M0#g VSS 4.44192e-17
C17 MX45/M0#d VSS 4.38913e-17
C18 MX46/M0#g VSS 3.53717e-17
C19 1#10 VSS 9.67847e-17
C20 1#13 VSS 1.46087e-16
C21 1#9 VSS 2.06541e-16
C22 1 VSS 7.69114e-17
Rg21 MX52/M0#g 1 388.449097 $W=0.15
Rg22 1 MX46/M0#g 356.315735 $W=0.15
Rf23 MX49/M0#d 1#9 25.917646 $W=0.17
Rf24 1#10 MX45/M0#d 18.764706 $W=0.17
Rf25 1 1#13 215.564697 $W=0.17
Re26 1#9 1#13 152.608688 $W=0.23
Re27 1#13 1#10 152.608688 $W=0.23
*
*|NET 3 1.00227e-15
*|I (MX58/M0#d MX58/M0 d X 0 1.4105 0.8025)
*|I (MX56/M0#g MX56/M0 g X 0 2.7150 0.8025)
*|I (MX54/M0#d MX54/M0 d X 0 1.4105 3.2375)
*|I (MM0#g MM0 g X 0 2.7150 3.2375)
*|S (3 2.7150 3.2375)
*|S (3#7 2.6850 2.1450)
*|S (3#9 1.5500 3.0900)
*|S (3#10 1.5500 0.8500)
*|S (3#13 1.5500 2.1450)
C23 MX56/M0#g VSS 2.97838e-17
C24 MX58/M0#d VSS 7.96883e-17
C25 3#10 VSS 1.55005e-16
C26 3#13 VSS 2.9241e-16
C27 3#9 VSS 2.36918e-16
C28 3#7 VSS 1.55108e-16
C29 3 VSS 5.33526e-17
Rg28 3 3#7 332.215759 $W=0.15
Rg29 3#7 MX56/M0#g 412.549103 $W=0.15
Rf30 MX54/M0#d 3#9 25.917646 $W=0.17
Rf31 3#10 MX58/M0#d 18.764706 $W=0.17
Rf32 3#7 3#13 252.458832 $W=0.17
Re33 3#9 3#13 152.513580 $W=0.23
Re34 3#13 3#10 152.703812 $W=0.23
Rmw35 MM0#g 3 0.001000 $W=1000000
*
*|NET 4 1.0115e-15
*|I (MX50/M0#d MX50/M0 d X 0 2.2095 0.8025)
*|I (MX47/M0#g MX47/M0 g X 0 3.1450 0.8025)
*|I (MX53/M0#g MX53/M0 g X 0 3.1450 3.2375)
*|I (MX48/M0#d MX48/M0 d X 0 2.2095 3.2375)
*|S (4 3.1750 1.7950)
*|S (4#9 2.0700 3.0900)
*|S (4#10 2.0700 0.8500)
*|S (4#13 2.0700 1.7950)
C30 MX53/M0#g VSS 4.3211e-17
C31 MX47/M0#g VSS 4.18931e-17
C32 MX50/M0#d VSS 8.19133e-17
C33 4#10 VSS 1.35847e-16
C34 4#13 VSS 3.19416e-16
C35 4#9 VSS 2.56981e-16
C36 4 VSS 1.32243e-16
Rg36 MX53/M0#g 4 439.958893 $W=0.15
Rg37 4 MX47/M0#g 295.358887 $W=0.15
Rf38 MX48/M0#d 4#9 25.917646 $W=0.17
Rf39 4#10 MX50/M0#d 18.764706 $W=0.17
Rf40 4 4#13 250.199997 $W=0.17
Re41 4#9 4#13 152.703812 $W=0.23
Re42 4#13 4#10 152.513580 $W=0.23
*
*|NET 7 9.87403e-16
*|I (MX59/M0#d MX59/M0 d X 0 3.6505 0.8025)
*|I (MX57/M0#g MX57/M0 g X 0 4.5250 0.9700)
*|I (MX55/M0#d MX55/M0 d X 0 3.6505 3.2375)
*|I (MX44/M0#g MX44/M0 g X 0 4.5250 2.9850)
*|S (7 4.5250 2.9850)
*|S (7#7 4.4950 2.0050)
*|S (7#9 3.7900 3.0900)
*|S (7#10 3.7900 0.8500)
*|S (7#13 3.7900 2.0050)
C37 MX55/M0#d VSS 8.89982e-21
C38 MX57/M0#g VSS 6.06974e-17
C39 MX59/M0#d VSS 6.99159e-17
C40 7#10 VSS 1.55454e-16
C41 7#13 VSS 2.58014e-16
C42 7#9 VSS 2.47214e-16
C43 7#7 VSS 1.29318e-16
C44 7 VSS 6.67817e-17
Rg43 7 7#7 296.065735 $W=0.15
Rg44 7#7 MX57/M0#g 313.739075 $W=0.15
Rf45 MX55/M0#d 7#9 25.917646 $W=0.17
Rf46 7#10 MX59/M0#d 18.764706 $W=0.17
Rf47 7#7 7#13 220.082352 $W=0.17
Re48 7#9 7#13 152.589676 $W=0.23
Re49 7#13 7#10 152.627716 $W=0.23
Rmw50 MX44/M0#g 7 0.001000 $W=1000000
*
*|NET 8 1.43737e-15
*|I (MX57/M0#d MX57/M0 d X 0 4.4495 0.9700)
*|I (MX51/M0#g MX51/M0 g X 0 6.2450 0.9700)
*|I (MX51/M1#g MX51/M1 g X 0 5.8150 0.9700)
*|I (MX51/M2#g MX51/M2 g X 0 5.3850 0.9700)
*|I (MX51/M3#g MX51/M3 g X 0 4.9550 0.9700)
*|I (MX44/M0#d MX44/M0 d X 0 4.4495 2.9850)
*|I (MX43/M0#g MX43/M0 g X 0 6.2450 2.9850)
*|I (MX43/M1#g MX43/M1 g X 0 5.8150 2.9850)
*|I (MX43/M2#g MX43/M2 g X 0 5.3850 2.9850)
*|I (MX43/M3#g MX43/M3 g X 0 4.9550 2.9850)
*|S (8 4.9550 2.9850)
*|S (8#25 6.2450 1.6650)
*|S (8#26 5.8150 1.6650)
*|S (8#27 5.6000 1.6650)
*|S (8#28 5.3850 1.6650)
*|S (8#29 4.9550 1.6650)
*|S (8#31 4.3100 2.9100)
*|S (8#32 4.3100 1.0050)
*|S (8#35 4.3100 1.6650)
C45 MX43/M2#g VSS 5.94879e-17
C46 MX43/M1#g VSS 5.52849e-17
C47 MX43/M0#g VSS 6.70897e-17
C48 MX44/M0#d VSS 1.41593e-16
C49 MX51/M3#g VSS 4.69025e-17
C50 MX51/M2#g VSS 4.7745e-17
C51 MX51/M1#g VSS 4.29867e-17
C52 MX51/M0#g VSS 5.2647e-17
C53 MX57/M0#d VSS 9.22035e-17
C54 8#32 VSS 1.38231e-16
C55 8#35 VSS 2.28637e-16
C56 8#31 VSS 1.72061e-16
C57 8#27 VSS 2.34082e-16
C58 8 VSS 5.84192e-17
Rg51 MX43/M0#g 8#25 420.183319 $W=0.15
Rg52 8#25 8#26 62.011234 $W=0.27
Rg53 8#26 8#27 36.929379 $W=0.27
Rg54 8#27 8#28 36.929379 $W=0.27
Rg55 8#28 8#29 62.011227 $W=0.27
Rg56 8#29 MX51/M3#g 219.349991 $W=0.15
Rg57 8#25 MX51/M0#g 219.349991 $W=0.15
Rg58 8#26 MX51/M1#g 216.793076 $W=0.15
Rg59 8#26 MX43/M1#g 417.626404 $W=0.15
Rg60 8#28 MX51/M2#g 216.793076 $W=0.15
Rg61 8#28 MX43/M2#g 417.626404 $W=0.15
Rg62 8#29 8 420.183319 $W=0.15
Rf63 MX44/M0#d 8#31 6.811321 $W=0.53
Rf64 8#32 MX57/M0#d 8.423712 $W=0.485
Rf65 8#27 8#35 254.129410 $W=0.17
Re66 8#31 8#35 76.676628 $W=0.23
Re67 8#35 8#32 76.358696 $W=0.23
Rmw68 MX43/M3#g 8 0.001000 $W=1000000
*
*|NET 24 1.05761e-16
*|I (MX58/M0#s MX58/M0 s X 0 1.2595 0.8025)
*|I (MX46/M0#d MX46/M0 d X 0 0.9805 0.8025)
*|S (24 1.1200 0.8000)
C59 24 VSS 1.05761e-16
Rmw69 MX58/M0#s 24 0.001000 $W=1000000
Rmw70 MX46/M0#d 24 0.001000 $W=1000000
*
*|NET 26 1.45242e-16
*|I (MX54/M0#s MX54/M0 s X 0 1.2595 3.2375)
*|I (MX52/M0#d MX52/M0 d X 0 0.9805 3.2375)
*|S (26 1.1200 3.2350)
C60 26 VSS 1.45242e-16
Rmw71 MX54/M0#s 26 0.001000 $W=1000000
Rmw72 MX52/M0#d 26 0.001000 $W=1000000
*
*|NET 28 1.05344e-16
*|I (MX56/M0#d MX56/M0 d X 0 2.6395 0.8025)
*|I (MX50/M0#s MX50/M0 s X 0 2.3605 0.8025)
*|S (28 2.5000 0.8000)
C61 28 VSS 1.05344e-16
Rmw73 MX56/M0#d 28 0.001000 $W=1000000
Rmw74 MX50/M0#s 28 0.001000 $W=1000000
*
*|NET 30 1.30419e-16
*|I (MX48/M0#s MX48/M0 s X 0 2.3605 3.2375)
*|I (MM0#s MM0 s X 0 2.6395 3.2375)
*|S (30 2.5000 3.2350)
C62 30 VSS 1.30419e-16
Rmw75 MX48/M0#s 30 0.001000 $W=1000000
Rmw76 MM0#s 30 0.001000 $W=1000000
*
*|NET 32 1.08111e-16
*|I (MX59/M0#s MX59/M0 s X 0 3.4995 0.8025)
*|I (MX47/M0#d MX47/M0 d X 0 3.2205 0.8025)
*|S (32 3.3600 0.8000)
C63 32 VSS 1.08111e-16
Rmw77 MX59/M0#s 32 0.001000 $W=1000000
Rmw78 MX47/M0#d 32 0.001000 $W=1000000
*
*|NET 34 1.36345e-16
*|I (MX55/M0#s MX55/M0 s X 0 3.4995 3.2375)
*|I (MX53/M0#d MX53/M0 d X 0 3.2205 3.2375)
*|S (34 3.3600 3.2350)
C64 34 VSS 1.36345e-16
Rmw79 MX55/M0#s 34 0.001000 $W=1000000
Rmw80 MX53/M0#d 34 0.001000 $W=1000000
*
*Instance Section
*
MX59/M0	MX59/M0#d	VDD	MX59/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX58/M0	MX58/M0#d	VDD	MX58/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX57/M0	MX57/M0#d	MX57/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX56/M0	MX56/M0#d	MX56/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX51/M0	MX51/M0#d	MX51/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX51/M1	VSS	MX51/M1#g	MX51/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX51/M2	MX51/M2#d	MX51/M2#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX51/M3	VSS	MX51/M3#g	MX51/M3#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX50/M0	MX50/M0#d	VDD	MX50/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX47/M0	MX47/M0#d	MX47/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX46/M0	MX46/M0#d	MX46/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX45/M0	MX45/M0#d	MX45/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX55/M0	MX55/M0#d	VSS	MX55/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX54/M0	MX54/M0#d	VSS	MX54/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX53/M0	MX53/M0#d	MX53/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX52/M0	MX52/M0#d	MX52/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX49/M0	MX49/M0#d	MX49/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX48/M0	MX48/M0#d	VSS	MX48/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX44/M0	MX44/M0#d	MX44/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX43/M0	MX43/M0#d	MX43/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX43/M1	VDD	MX43/M1#g	MX43/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX43/M2	MX43/M2#d	MX43/M2#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX43/M3	VDD	MX43/M3#g	MX43/M3#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MM0	VDD	MM0#g	MM0#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
